US05332736
Ethyl 5-(2,4-dichlorobenzoyl)-1,4-dimethyl-1H-pyrrole-2-acetate (3)
A solution of 50 g (0.276 mole) of ethyl 1,4-dimethyl-1H-pyrrole-2-acetate and 64 g (0.303 mole) of 2,4-dichlorobenzoyl chloride in 310 mL of xylene was heated under reflux for 4 h under argon. After cooling, a 20% solution of 3-dimethylaminopropylamine in H2O was added and stirred one hour. The organic layer was washed twice with 1N HCl, water, brine, and dried (MgSO4). Evaporation of the solvent in vacuo gave a solid which was recrystallized from methanol to give 79.39 g of product: mp 90°-92° C.; mass spectrum (Cl--CH4) m/z=354 (M+1); NMR 300 MHz (CDCl3) d 7.5 (s, 1H); 7.3 (dd, 2H); 6.0 (s, 1H); 4.2 (q, 2H); 3.9 (s, 3H); 3.65 (s, 2H); 1.6 (s, 3H); 1.25 (t, 3 H). Anal Calcd for C17H17Cl2NO3 : C, 57.64; H, 4.84; N, 3.95. Found: C, 57.52; H, 4.60; N, 3.80.

reactant | ethyl 1,4-dimethyl-1H-pyrrole-2-acetate | 0.276 mole, 50 g | CN1C(=CC(=C1)C)CC(=O)OCC | C10H15NO2
reactant | 2,4-dichlorobenzoyl chloride | 0.303 mole, 64 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
reactant | 3-dimethylaminopropylamine | CN(CCCN)C | C5H14N2
solvent | xylene | 310 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | H2O | O | H2O
product | Ethyl 5-(2,4-dichlorobenzoyl)-1,4-dimethyl-1H-pyrrole-2-acetate | 79.39 g | ClC1=C(C(=O)C2=C(C=C(N2C)CC(=O)OCC)C)C=CC(=C1)Cl | C17H17Cl2NO3
